US05519133
Preparation of Methyl 3-[5-(2,4-dichlorophenoxy)-2-nitrophenyl]tetrahydro-2,4,6-trioxo-s-triazine-1-(2H)-acetate
Potassium carbonate (1.14 g, 8.25 mmol) is added to a solution of methyl 3-(5-fluoro-2-nitrophenyl)tetrahydro-2,4,6-trioxo-s-triazine-1-(2H)-acetate (0.93 g, 2.74 mmol) and 2,4-dichlorophenol (0.66 g, 4.07 mmol) in N,N-dimethylformamide at 38° C. The reaction mixture is stirred at 38° C. for 3 days, cooled to room temperature and poured into 1M hydrochloric acid. The aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain an orange oil. Column chromatography of the oil using silica gel and 30% to 40% ethyl acetate in hexanes solutions gives the title product as a yellow foam which is identified by NMR spectral analysis.

reactant | Potassium carbonate | 8.25 mmol, 1.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-(5-fluoro-2-nitrophenyl)tetrahydro-2,4,6-trioxo-s-triazine-1-(2H)-acetate | 2.74 mmol, 0.93 g | FC=1C=CC(=C(C1)N1C(N(C(NC1=O)=O)CC(=O)OC)=O)[N+](=O)[O-] | C12H9FN4O7
reactant | 2,4-dichlorophenol | 4.07 mmol, 0.66 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-[5-(2,4-dichlorophenoxy)-2-nitrophenyl]tetrahydro-2,4,6-trioxo-s-triazine-1-(2H)-acetate | ClC1=C(OC=2C=CC(=C(C2)N2C(N(C(NC2=O)=O)CC(=O)OC)=O)[N+](=O)[O-])C=CC(=C1)Cl | C18H12Cl2N4O8
